US06235731B1
2) Synthesis of N-[2-(1-(3-(2-chlorophenyl)propan-1-yl)piperidin-4-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 327.9 mg (0.68 mM) of N-[2-(1-(3-(2-chlorophenyl)propan-1-yl)piperidin-4-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added 2 ml (8.0 mM) of 4N-HCl/ethyl acetate and the mixture was stirred for several minutes. The solvent was then distilled off under reduced pressure and ether was added to the residue. The resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals (364.0 mg, 91%).

reactant | N-[2-(1-(3-(2-chlorophenyl)propan-1-yl)piperidin-4-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.68 mM, 327.9 mg | ClC1=C(C=CC=C1)CCCN1CCC(CC1)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C26H29ClN4OS
reactant | HCl ethyl acetate | Cl.C(C)(=O)OCC
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[2-(1-(3-(2-chlorophenyl)propan-1-yl)piperidin-4-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | 364.0 mg, 91% | Cl.Cl.ClC1=C(C=CC=C1)CCCN1CCC(CC1)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C26H29ClN4OS.2ClH/c27-22-7-2-1-5-20(22)6-4-14-30-15-11-19(12-16-30)10-13-28-26(32)23-17-21-18-29-24-8-3-9-25(33-23)31(21)24;;/h1-3,5,7-9,17-19H,4,6,10-16H2,(H,28,32);2*1H
